*Subcircuit of Counter of 2 bits
.SUBCKT COUNTER_2BITS CLK_counter CLK OUT[0] OUT[1]

.PARAM VDD = 5
;  D   	GND   	CLK            	Preset	RESET 	NotQ	Q
.func up(s) buf( ddt(s)) ; generates pulse on rising edge of s
Bedge_up_detector	edge_up_of_clk 0 V={up(V(clk))*{VDD}}


A1 D1 0 				clk_counter 0 Reset D1 	OUT[0] 	0 DFLOP TAU=1N VHIGH= {VDD}
A2 D2 0 				D1 			0 Reset D2 	OUT[1] 	0 DFLOP TAU=1N VHIGH= {VDD}
A3 D3 0 				D2 			0 Reset D3 	S1 		0 DFLOP TAU=1N VHIGH= {VDD}

*Interanl Logic of reset
A4 S1 edge_up_of_clk	0			0 0 	0 	RESET 	0 SRFLOP TAU=1N VHIGH= {VDD}

.END COUNTER_2BITS
