*------------------------------------------------------------------------------------------
*Subcircuito SAMPLE & HOLD
*------------------------------------------------------------------------------------------
.SUBCKT SAMPLE_HOLD IN 	CLK OUT

*------------------------------------------------------------------------------------------
*PARAMETERS
*------------------------------------------------------------------------------------------
.PARAM p_CH		0.01uf   ; Capacitor for holding the sampled value
.PARAM p_von   	5V       ; Control voltage at which the switch turns on
.PARAM p_voff  	0V       ; Control voltage at which the switch turns off
*------------------------------------------------------------------------------------------
*Models
*------------------------------------------------------------------------------------------
.MODEL	SRES	VSWITCH(VON={p_von } VOFF={p_voff} RON=10 ROFF=10MEG)

*------------------------------------------------------------------------------------------
Ssh IN OUT CLK 0 SRES
CH	OUT 0	{p_ch}
RH	OUT	0	10Meg

.END SAMPLE_HOLD
